US09359286B2
To a mixture of (5R,7S)-7-((R)-6-hexyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one (400 mg, 1.125 mmol) in dioxane (30 mL) was added aqueous NaOH (1N, 20 mL). The reaction mixture was heated at 100° C. for 3 days, cooled to room temperature, diluted with ethyl acetate and washed with water. The organic layer was dried with MgSO4, filtered and concentrated. The crude material was purified on a silica gel cartridge (24 g) using an 20% (2N NH3/MeOH) in DCM/DCM gradient (0-75% of 20% (2N NH3/MeOH) in DCM over 13 CV) to afford 290 mg of ((1R,3S)-1-amino-3-((R)-6-hexyl-5,6,7,8-tetrahydronaphthalen-2-yl)cyclopentyl)methanol. HPLC retention time=10.09 min (Condition H); LC/MS M+1=330; 1H NMR (400 MHz, methanol-d4) δ 7.03-6.91 (m, 3H), 3.54-3.41 (m, 2H), 3.01 (tt, J=11.1, 7.2 Hz, 1H), 2.87-2.69 (m, 3H), 2.34 (dd, J=16.2, 10.5 Hz, 1H), 2.20 (dd, J=13.0, 7.5 Hz, 1H), 2.07-1.84 (m, 3H), 1.83-1.60 (m, 3H), 1.60-1.48 (m, 1H), 1.47-1.25 (m, 11H), 1.00-0.88 (m, 3H).

reactant | (5R,7S)-7-((R)-6-hexyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 1.125 mmol, 400 mg | C(CCCCC)[C@H]1CC=2C=CC(=CC2CC1)[C@@H]1C[C@@]2(COC(N2)=O)CC1 | C23H33NO2
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ((1R,3S)-1-amino-3-((R)-6-hexyl-5,6,7,8-tetrahydronaphthalen-2-yl)cyclopentyl)methanol | 290 mg | N[C@]1(C[C@H](CC1)C1=CC=2CC[C@H](CC2C=C1)CCCCCC)CO | C22H35NO
